2134-03-31 07:25:00 Physician Resident Progress Note
Chief Complaint: CC: Seizure
   [**Hospital Unit Name 1**] Admission: Seizure, respiratory distress
   24 Hour Events:
   - consistently with RR in 30s-40s with sounds of upper airway
   obstruction.
   - serial blood gases did not demonstrate hypercarbia
   - frequent PVCs on tele
 PICC LINE - START [**2134-3-30**] 09:33 PM
   double lumen
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-3-30**] 10:09 PM
   Vancomycin - [**2134-3-30**] 10:45 PM
   Metronidazole - [**2134-3-31**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-3-30**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-3-31**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 106 (105 - 124) bpm
   BP: 124/74(87) {116/66(81) - 134/85(97)} mmHg
   RR: 36 (30 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    319 mL
                                                                    219 mL
   PO:
             TF:
   IVF:
                                                                    319 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                  1,100 mL
   Urine:
                                                                    705 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                   -881 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.39/43/186/22/1
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l)
   Abdominal: Bowel sounds present, Distended, binder in place
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   11.9 g/dL
   105 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   8 mg/dL
   107 mEq/L
   140 mEq/L
   35.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2134-3-30**]  10:00 PM
                             [**2134-3-31**]  12:36 AM
                             [**2134-3-31**]  02:25 AM
                             [**2134-3-31**]  05:00 AM
   WBC
   11.9
   Hct
   35.9
   Plt
   382
   Cr
   1.0
   TCO2
   27
   25
   27
   Glucose
   105
   Other labs: Differential-Neuts:79.9 %, Lymph:11.7 %, Mono:7.0 %,
   Eos:1.2 %, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 14139**] is a 52 yo male with seizure disorder, MR, here for small
   bowel obstruction s/p LOA 10 days ago, now with respiratory distress
   following seizure.
   .
   #.  Respiratory distress.  Likely secondary to upper airway obstruction
   from known OSA after receiving 4 mg of ativan.  Also, possible element
   of aspiration pneumonia +/- CHF.  Also respiratory mechanics
   compromised by abdominal distention, binder.  Due to recent abdominal
   surgery with wound dehissence, cannot use BIPAP per surgery.
   Respiratory status unchanged overnight, ABGs stable.  -880 ccs with
   lasix 20mg IV x 1
   - vanco/zosyn to cover aspiration
   - continue to diurese, -1 L today.
   - monitor clinically, consider intubation if does not improve as ativan
   wears off
   - consider opening abdominal binding to improve respiratory mechanics
   .
   #.  Seizure disorder.  Patient is on trileptal and lyrica on this
   admission, but limited PO absorption in setting of ileus.  Now loaded
   with fos-phenytoin per neuro, level this am 11.  No further load per
   neuro. Reglan, levofloxacin stopped overnight.
   - dilantin 100mg IV q8
   - ativan if actively seizing
   - neuro recs
   .
   #.  SBO s/p lysis of adhesions.  Now POD 10.  Complicated by wound
   dehissence and post-op ileus.
   - surgery following
   - avoid BIPAP due to concern for wound
   - switch levo/flagyl to zosyn given concern that levaquin lowers
   seizure threshold
   - replace NGT to suction when respiratory status is stable
   .
   #.  Tachycardia. Likely secondary to respiratory distress and has
   improved following seizure.  Mild improvement overnight 140s -> 100s.
   If does not improve with improvement of respiratory distress, could
   consider CTA to r/o PE.
   - monitor on tele
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2134-3-30**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-04-01 12:17:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with continued improvement in respiratory status with
   titration down to room air.
   -No evidence of further seizure activity
   -Continued negative fluid balance across the night.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-3-30**] 10:09 PM
   Vancomycin - [**2134-3-31**] 07:30 AM
   Metronidazole - [**2134-3-31**] 09:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-4-1**] 08:33 AM
   Furosemide (Lasix) - [**2134-4-1**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2134-4-1**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**36**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 91 (76 - 101) bpm
   BP: 108/77(85) {89/50(61) - 137/82(93)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    875 mL
                                                                    658 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    875 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,930 mL
   Urine:
                                                                  3,310 mL
                                                                  1,930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,435 mL
                                                                 -1,272 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   374 K/uL
   137 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.9 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   37.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2134-3-30**]  10:00 PM
                             [**2134-3-31**]  12:36 AM
                             [**2134-3-31**]  02:25 AM
                             [**2134-3-31**]  05:00 AM
                             [**2134-3-31**]  07:39 AM
                             [**2134-3-31**]  11:02 AM
                             [**2134-3-31**]  03:18 PM
                             [**2134-4-1**]  03:41 AM
   WBC
   11.9
   10.2
   9.3
   Hct
   35.9
   35.3
   37.2
   Plt
   382
   354
   374
   Cr
   1.0
   0.9
   1.0
   TCO2
   27
   25
   27
   28
   29
   Glucose
   105
   123
   137
   Other labs: Differential-Neuts:76.5 %, Lymph:13.8 %, Mono:5.4 %,
   Eos:3.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: ECHO--PCWP estimated to be at >18 and preserved global
   systolic function.
   CXR--Substantial improvement in bilateral opacities
   Assessment and Plan
   Patient with known seizure disorder and now with admission to ICU with
   seizure and multi-focal opacities seen which has been associated with
   significant hypoxemia and which has shown substantial improvement with
   MDI's and lasix with negative fluid balance.
   1) HYPOXEMIA-Patient with much improved with control of seizure and
   with negative fluid balance and bronchodilators
   -Will continue with room air
   -Aspiration precautions should he return to po status
   -Sips are not tolerated
   2) SEIZURE, WITHOUT STATUS EPILEPTICUS
   -Dliantin per neurology and level
will need to redose IV
   -Ativan to continue IV
   3)SBO
   -No NGT per surgery
   -Will need to evaluate in follow up for risk of hernia
   -Will maintain npo status this morning
   ICU Care
   Nutrition:
   TPN without Lipids - [**2134-4-1**] 02:30 AM 45.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-3-30**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
Will transfer to floor to surgical team
   Total time spent: 35 minutes